Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
Elevated Troponin, Transfer 
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
Ms. ___ is a ___ with PMH of asthma, anxiety, obesity s/p 
cosmetic abdominoplasty, hyperlipidemia who presented to ___ 
ED with chest and jaw pain, found to have elevated troponin now 
s/p cardiac catheterization found to have no CAD but possible 
microvascular disease. 

Patient noted sudden onset of left sided jaw and shoulder pain 
radiating to her back, which wake her from sleep at 
approximately 2am. She reported associated nausea, but denied 
dyspnea or diaphoresis. She reports no associated with exertion, 
nor change in character with inhalation. She presented to OSH ED 
where she was evaluated with CXR which was normal and CTA neck 
which showed no evidence of dissection. Labs were notable for 
troponin 0.036, CK 2894, MB 44.6. She was given SL NTG with 
improvement, started on heparin and transferred to ___ ED for 
further management.  

In the ED initial vitals were: 98.4 71 140/88 14 97% RA  
Labs/studies notable for: troponin 0.02, PTT 141.2 
ECG: NSR, HR 62, NA, NI, no STE (unchanged from prior)
Patient was given: heparin 1000U IV gtt, nitro gtt 
Vitals on transfer: 98 58 118/66 14 100% RA 

Patient was taken for cardiac catheterization in consultation 
with ___ Cardiology and was found to have no angiographically 
apparent CAD, but evidence of microvascular dysfunction. 
 
Past Medical History:
Asthma
Anxiety
Obesity s/p cosmetic abdominoplasty
Hyperlipidemia 
 
Social History:
___
Family History:
- father: cancer
- maternal grandmother: hyperlipidemia
- mother: CAD/PVD, breast cancer, diabetes, hyperlipidemia  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Mild tenderness over left jaw. NCAT. Sclera anicteric. 
PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis of the 
oral mucosa. No xanthelasma.  
NECK: Supple with JVP of <8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM: 
VS: T 98 BP 133/73 HR 59 RR 18 O2 SAT 98% RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Mild tenderness over left jaw. NCAT. Sclera anicteric. 
PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis of the 
oral mucosa. No xanthelasma.  
NECK: Supple with JVP of <8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS: 
___ 07:25AM BLOOD WBC-6.3 RBC-4.23 Hgb-13.2 Hct-39.8 MCV-94 
MCH-31.2 MCHC-33.2 RDW-11.8 RDWSD-40.7 Plt ___
___ 07:25AM BLOOD Neuts-47.5 ___ Monos-5.5 Eos-3.0 
Baso-0.3 Im ___ AbsNeut-3.00 AbsLymp-2.75 AbsMono-0.35 
AbsEos-0.19 AbsBaso-0.02
___ 07:25AM BLOOD ___ PTT-141.2* ___
___ 07:25AM BLOOD Glucose-104* UreaN-17 Creat-0.7 Na-137 
K-4.0 Cl-101 HCO3-24 AnGap-16
___ 07:25AM BLOOD CK(CPK)-2948*
___ 07:25AM BLOOD CK-MB-40* MB Indx-1.4
___ 07:25AM BLOOD cTropnT-0.03*
___ 07:25AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.1

PERTINENT INTERVAL LABS: 
___ 04:25AM BLOOD CK(CPK)-1766*
___ 04:25AM BLOOD CK-MB-16* MB Indx-0.9 cTropnT-0.02*
___ 02:45AM BLOOD %HbA1c-5.4 eAG-108

DISCHARGE LABS: 
___ 04:25AM BLOOD WBC-5.2 RBC-4.18 Hgb-13.2 Hct-39.2 MCV-94 
MCH-31.6 MCHC-33.7 RDW-11.9 RDWSD-40.8 Plt ___
___ 04:25AM BLOOD Glucose-97 UreaN-13 Creat-0.7 Na-137 
K-4.1 Cl-100 HCO3-28 AnGap-13
___ 04:25AM BLOOD Calcium-9.1 Phos-4.7* Mg-2.0

IMAGING/STUDIES: 

TTE ___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function (3D LVEF = 62 %). Transmitral and tissue 
Doppler imaging suggests normal diastolic function, and a normal 
left ventricular filling pressure (PCWP<12mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. There is no mitral valve prolapse. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function.
CLINICAL IMPLICATIONS: Based on ___ AHA endocarditis 
prophylaxis recommendations, the echo findings indicate 
prophylaxis is NOT recommended. Clinical decisions regarding the 
need for prophylaxis should be based on clinical and 
echocardiographic data.  

CARDIAC CATH ___: 
Dominance: Right
The LMCA, LAD, Cx and RCA had no angiographically apparent CAD. 
There was evidence of microvascular dysfunction.
Impressions: 1. No epicardial coronary disease.
 
Brief Hospital Course:
___ with PMH of asthma, anxiety, obesity s/p cosmetic 
abdominoplasty, hyperlipidemia who presented to ___ ED with 
chest and jaw pain, found to have elevated troponin to 0.036 
without ECG changes. She was evaluated with cardiac 
catheterization which showed no epicardial coronary disease, but 
some possible microvascular dysfunction. TTE showed some mild 
symmetric LVH but otherwise no evidence of ventricular or 
valvular dysfunction. Hgb A1c was within normal limits. The 
patient was started on amlodipine 2.5mg daily for treatment of 
possible microvascular induced vasospasm. 

The patient reported some persistent jaw pain which was 
suspected to be musculoskeletal, perhaps exacerbated by recent 
stressors. She was treated with NSAIDs and home alprazolam with 
improvement. She was noted to have slightly elevated CK, which 
thought to be related to her myocardial injury vs. her 
musculoskeletal strain. CK downtrending spontaneously. 

Transitional Issues
- f/u with PCP for further management and cardiac optimization. 
- Patient with slight CK elevation while hospitalized to 1766 at 
discharge, possibly related to MSK jaw strain symptoms vs. small 
myocardial injury due to vasospasm. Recommend repeat CK after 
discharge and start statin for cardioprotective benefit and for 
treatment of hyperlipidemia
- Continue to monitor BP given initiation of low dose amlodipine 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, wheeze 
2. Venlafaxine XR 150 mg PO DAILY 
3. ALPRAZolam 1 mg PO QHS sleep, anxiety 
4. beclomethasone dipropionate 40 mcg/actuation inhalation BID 
5. Multivitamins 1 TAB PO DAILY 
6. Calcium with Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
7. phentermine 15 mg oral DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, wheeze  
3.  ALPRAZolam 1 mg PO QHS sleep, anxiety  
4.  beclomethasone dipropionate 40 mcg/actuation inhalation BID  

5.  Calcium with Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  phentermine 15 mg oral DAILY  
8.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: musculoskeletal strain, microvascular disease 
of the coronaries arteries 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

Thank you for allowing us to participate in your care at ___! 
You were admitted to the hospital with chest pain. We evaluated 
you with a cardiac catheterization which showed that you may 
have some evidence of microvascular dysfunction in the small 
arteries which supply your heart with blood. We started you on a 
medicine called amlodipine to prevent spasm of these arteries. 

We also believe that some of your jaw and shoulder pain may be 
related to strained muscles, perhaps from clenching your teeth. 
You may continue to take NSAIDs for this pain. 

Please follow up with your primary care doctor in ___ weeks 
after discharge for further monitoring. 

We wish you the best!
Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___